US04933310
K2CO3, ZnO and TiO2 were thoroughly ground to form a homogeneous mixture having the stoichiometric K0.80 (Zn0.40 Ti1.60)O4 which was then fired in air in a ceramic crucible at 900° C. for 200 minutes and then at 1050° C. for 720 minutes. The product was then reground and refined under the same conditions. The resulting stiff powder was then ground to about 100 mesh to yield a product analysed as K0.66 (Zn0.35 Ti1.49)O4. The d-layer spacing from X-ray powder diffraction d(A) was measured as 7.83. Excess octylamine (5 mole equiv/mole equiv of titanozincate) was slowly added to a solution of 12% HCl (4.9 equiv HCl/mole) while keeping the temperature of the reaction mixture below 50° C. to form an acidic aqueous octylammonium chloride solution. The titanozincate was then added to the chloride solution and the mixture was heated to reflux for 24 hours. The reaction mixture was cooled, filtered and washed with hot distilled water. The air dried product was a material having the composition

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | octylamine | 5 mole | C(CCCCCCC)N | C8H19N
reactant | HCl | 4.9 equiv | Cl | ClH
product | octylammonium chloride | [Cl-].C(CCCCCCC)[NH3+] | InChI=1S/C8H19N.ClH/c1-2-3-4-5-6-7-8-9;/h2-9H2,1H3;1H
